US08871792B2
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid 5-Methyl-2-oxo-[1,3]-dioxol-4-ylmethyl Ester
(R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid (30.0 mg, 63 mmol), HOBt (26 mg, 190 μmol) and EDC (34 μL, 190 μmol) were combined in DCM (243 μL, 3.8 mmol) and stirred for 10 minutes. 4-Hydroxymethyl-5-methyl-[1,3]dioxol-2-one (66 mg, 0.5 mmol) and 4-methylmorpholine (28 μL, 250 μmol) were added and the resulting mixture was stirred at room temperature for 3 hours. The mixture was evaporated under reduced pressure, yielding a brown oil, which was purified by preparative HPLC to yield the title compound (4.6 mg, purity 97%) as a TFA salt. MS m/z [M+H]+ calc'd for C27H24ClFN4O8, 587.13. found 587.1.

reactant | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic acid | 63 mmol, 30.0 mg | C(C)(=O)C=1C=C(NN1)C(=O)NN(CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)C[C@H](C(=O)O)O | C22H20ClFN4O5
reactant | HOBt | 190 μmol, 26 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 190 μmol, 34 μL
reactant | DCM | 3.8 mmol, 243 μL | C(Cl)Cl | CH2Cl2
reactant | 4-Hydroxymethyl-5-methyl-[1,3]dioxol-2-one | 0.5 mmol, 66 mg | OCC=1OC(OC1C)=O | C5H6O4
reactant | 4-methylmorpholine | 250 μmol, 28 μL | CN1CCOCC1 | C5H11NO
product | (R)-3-[N′-(5-Acetyl-2H-pyrazole-3-carbonyl)-N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)hydrazino]-2-hydroxypropionic Acid 5-Methyl-2-oxo-[1,3]-dioxol-4-ylmethyl Ester | 4.6 mg | CC1=C(OC(O1)=O)COC([C@@H](CN(NC(=O)C=1NN=C(C1)C(C)=O)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C27H24ClFN4O8
